US05439925
(b) 3-(1-Adamantyl)-4-methoxyaniline
11.03 g (31.2 mmol) of 3-(1-adamantyl)4-methoxy -N-(trifluoroacetyl)aniline dissolved in 40 ml of methanol and 160 ml of water are treated with 7.12 g (51.5 mmol) of potassium hydroxide. The reaction medium is heated to 50° C. for 20 hours and then 80° C. for 18 hours. After evaporation to dryness, the residue is taken up with ethyl ether, the insoluble matter is filtered off and the filtrate is dried over magnesiumsulphate and evaporated. The solid is washed in hexane to yield, after drying, 7.44 g (93%) of 3-(1-adamantyl)-4-methoxyaniline, melting point 140°-141° C.

reactant | 3-(1-adamantyl)4-methoxy -N-(trifluoroacetyl)aniline | 31.2 mmol, 11.03 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(NC(C(F)(F)F)=O)C=CC2OC | C19H22F3NO2
reactant | water | 160 ml | O | H2O
reactant | potassium hydroxide | 51.5 mmol, 7.12 g | [OH-].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 3-(1-Adamantyl)-4-methoxyaniline | C12(CC3CC(CC(C1)C3)C2)C=2C=C(N)C=CC2OC | C17H23NO
